US08541596B2
N,N-Bis(4-bromobenzyl)-1H-benzo[d]imidazol-5-amine
The compound was synthesized starting from benzimidazol-5-amine (133 mg; 1 mmol; 1 eq.), 4-bromobenzylbromide (550 mg; 2.2 mmol; 2.2 eq.) and K2CO3 (304 mg; 2.2 mmol; 2.2 eq.) according to method 5; Yield: 0.153 g (32.5%); MS m/z: 472.3 [M+H]+; 1H-NMR (500 MHz, DMSO d6): δ 4.63 (s, 4H); 6.66-6.67 (m, 1H); 6.71 (dd, 1H, 4J=2.4 Hz, 3J=8.9 Hz); 7.22-7.24 (m, 4H); 7.34 (d, 1H, 3J=8.9 Hz); 7.48-7.50 (m, 4H); 7.93 (s, 1H); 11.99 (br s, 1H; HPLC (METHOD [A]): rt 18.49 min (98.4%)

reactant | benzimidazol-5-amine | 1 mmol, 133 mg, 1 eq. | N1=CNC2=C1C=CC(=C2)N | C7H7N3
reactant | 4-bromobenzylbromide | 2.2 mmol, 550 mg, 2.2 eq. | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | K2CO3 | 2.2 mmol, 304 mg, 2.2 eq. | C(=O)([O-])[O-].[K+].[K+]
product | N,N-Bis(4-bromobenzyl)-1H-benzo[d]imidazol-5-amine | BrC1=CC=C(CN(C2=CC3=C(NC=N3)C=C2)CC2=CC=C(C=C2)Br)C=C1 | C21H17Br2N3
